US03932444
A dry round bottom flask equipped with a magnetic stirrer, reflux condenser and nitrogen inlet was charged with 8.35 g of imidazole-4-sulfonylchloride and 180 ml of THF. The stirred solution was treated with 11.10 g of 2-ethyl-4-methylimidazole in one portion and stirred at room temperature overnight. The resulting precipitate was filtered off and the filtrate concentrated at reduced pressure to a foam. The foam was dissolved in ethyl acetate and the filtered solids partitioned between water and ethyl acetate. The combined organic layers were washed with water, dried with Na2SO4 and concentrated to give a waxy solid. Recrystallization was carried out using ethyl acetate and a small amount of hexane to give 8.13 g of 1-(4-imidazolylsulfonyl)-2-ethyl- 4-methylimidazole, mp 147°-8°, which recrystallized to mp 149°-50°, λmaxnujol 3.26 (NH), 7.30 (SO2N) and 8.68 μ (SO2N). NMR (DMSO, d6) 466 Hz, d, J = 2 Hz, 1H; 450 Hz, d, J = 2 Hz, 1H; 403 Hz, q, J = Hz, 1H; 170 Hz, q, J ~ 7.5 Hz, 2H; 116 Hz, d, J = 1 Hz, 3H; 66 Hz, t, J ~ 7.5 Hz, 3H.

reactant | imidazole-4-sulfonylchloride | 8.35 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | 2-ethyl-4-methylimidazole | 11.10 g | C(C)C=1NC=C(N1)C | C6H10N2
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | 1-(4-imidazolylsulfonyl)-2-ethyl- 4-methylimidazole | 8.13 g | N1C=NC(=C1)S(=O)(=O)N1C(=NC(=C1)C)CC | C9H12N4O2S
